US04258133
The enzymatic activity of the penicillin amidase-support complex obtained is determined by contacting 0.5 g. of complex with 40 ml. of a 20 g./l. penicillin G solution in 0.1 M phosphate buffer, of pH 7.5, at 30° C., for 30 minutes. The complex is then removed by filtration and the 6-amino-penicillanic acid (6-APA) formed determined in the filtrate. The enzymatic activity of the complex is 50 U/g. (the unit "U" is the amount of complex which hydrolyzes 1 mircomol of penicillin G per minute).

reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
solvent | phosphate | 0.1 M | P(=O)([O-])([O-])[O-]
product | 6-amino-penicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
